US08440830B2
N-(2-aminophenyl)-5-(N-1,3-benzodioxol-5-ylglycyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide
To the solution of (Benzo[1,3]dioxol-5-ylamino)-acetic acid. (1.0 mmol) in dry DMF (10 mL), were added 1-hydroxybenzotriazole (1.2 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (2 mmol) and N-methylmorpholine (2.0 mmol). Solution was cooled to 0° C. N-(2-aminophenyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide. obtained in step VIII of Example 1 was then added and mixture was stirred at room temperature overnight. Reaction mixture was concentrated, diluted with water, extracted with dichloromethane, washed with brine solution, and dried over anhydrous Na2SO4. Concentrated and purified by column chromatograph to obtained the title compound.

reactant | (Benzo[1,3]dioxol-5-ylamino)-acetic acid | O1COC2=C1C=CC(=C2)NCC(=O)O | C9H9NO4
reactant | 1-hydroxybenzotriazole | 1.2 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 2 mmol | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 2.0 mmol | CN1CCOCC1 | C5H11NO
reactant | N-(2-aminophenyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC=2CNCCC2N1 | C13H14N4OS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(2-aminophenyl)-5-(N-1,3-benzodioxol-5-ylglycyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC=2CN(CCC2N1)C(CNC1=CC2=C(OCO2)C=C1)=O | C22H21N5O4S
